US07867629B2
Dissolving 8.5 g (19 mmol) of 4-anthracen-9-yl-6-naphthalen-1-yl-phenyl-pyrimidine obtained in the foregoing step (2) into 100 milliliter of N,N-dimethylformamide, and adding 3.6 g (20 mmol) of N-bromosuccinimide, stirred at room temperature for 8 hours. After completion of the reaction, precipitated solids were separated by filtration and washed with water and methanol, thereby obtaining 7.2 g of 4-(10-bromo-anthracen-9-yl)-6-naphthalen-1-yl-phenyl-pyrimidine (yield: 73%).

reactant | 4-anthracen-9-yl-6-naphthalen-1-yl-phenyl-pyrimidine | 19 mmol, 8.5 g | C1=CC=CC2=CC3=CC=CC=C3C(=C12)C1=CC=C(C(=C1)C1=CC=CC2=CC=CC=C12)C1=NC=CC=N1 | C34H22N2
reactant | N-bromosuccinimide | 20 mmol, 3.6 g | BrN1C(CCC1=O)=O | C4H4BrNO2
solvent | N,N-dimethylformamide | 100 milliliter | CN(C=O)C | C3H7NO
product | 4-(10-bromo-anthracen-9-yl)-6-naphthalen-1-yl-phenyl-pyrimidine | 7.2 g, yield: 73% | BrC1=C2C=CC=CC2=C(C2=CC=CC=C12)C1=CC=C(C(=C1)C1=CC=CC2=CC=CC=C12)C1=NC=CC=N1 | C34H21BrN2
